US07223788B2
tert-Butyl (R)-[1-(2-fluoro-4-isopropylaminophenyl)pyrrolidin-3-yl]methylcarbamate
tert-Butyl (R)-[1-(4-amino-2-fluorophenyl)pyrrolidin-3-yl]methylcarbamate was alkylated with acetone using triacetoxyborohydride as reducing agent by method N. This resulted in the product with the molecular weight of 351.47 (C19H30FN3O2); MS (ESI): 352 (M+H+).

reactant | tert-Butyl (R)-[1-(4-amino-2-fluorophenyl)pyrrolidin-3-yl]methylcarbamate | NC1=CC(=C(C=C1)N1C[C@H](CC1)CNC(OC(C)(C)C)=O)F | C16H24FN3O2
reactant | triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | acetone | CC(=O)C | C3H6O
product | tert-Butyl (R)-[1-(2-fluoro-4-isopropylaminophenyl)pyrrolidin-3-yl]methylcarbamate | FC1=C(C=CC(=C1)NC(C)C)N1C[C@H](CC1)CNC(OC(C)(C)C)=O | C19H30FN3O2
